US06645971B1
(a) Preparation of 2-Trichloroacetylamino-3′-methoxybenzophenone
To a solution of 2.89 g (12.7 mmol) of 2-amino-3′-methoxybenzophenone and 2.13 ml (15.2 mmol) of triethylamine in 16 ml of tetrahydrofuran (THF), 1.56 ml (14 mmol) of trichloroacetyl chloride were added dropwise under ice-cooling and stirred for 2 hours. Water was added to the reaction mixture, which was followed by extraction with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=15/1) to give 4.51 g (12.1 mmol) of the title compound.

reactant | 2-amino-3′-methoxybenzophenone | 12.7 mmol, 2.89 g | NC1=C(C(=O)C2=CC(=CC=C2)OC)C=CC=C1 | C14H13NO2
reactant | triethylamine | 15.2 mmol, 2.13 ml | C(C)N(CC)CC | C6H15N
reactant | trichloroacetyl chloride | 14 mmol, 1.56 ml | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | Water | O | H2O
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
product | 2-Trichloroacetylamino-3′-methoxybenzophenone | 12.1 mmol, 4.51 g | ClC(C(=O)NC1=C(C(=O)C2=CC(=CC=C2)OC)C=CC=C1)(Cl)Cl | C16H12Cl3NO3
